US08044043B2
nona-1,8-dien-5-one.
In an oven-dried 500 mL round-bottomed flask (t=g) was added 4-Pentenoyl chloride (6.04 mL, 54.7 mmol) in THF (80 mL) to give a tan solution. After cooling to −78° C., 3-Butenylmagnesium bromide (115 mL, 57.5 mmol) was added via syringe over 90 min. After warming to room temperature for 3 hours, the reaction was quenched with saturated NH4Cl solution. THF was stripped off and the remaining was extracted with EtOAc. The organic layer was washed with brine, dried with Na2SO4, and concentrated to a slightly yellow oil. Purification (two batches) by FCC up to 40% Et2O/hexane afforded the product as a colorless oil: (5.13 g, 68%). 1H NMR (400 MHz, CDCl3) δ 5.84-5.68 (m, 2H), 5.05-4.90 (m, 4H), 2.49 (t, J=7.4 Hz, 4H), 2.35-2.20 (m, 4H).

reactant | 4-Pentenoyl chloride | 54.7 mmol, 6.04 mL | C(CCC=C)(=O)Cl | C5H7ClO
reactant | 3-Butenylmagnesium bromide | 57.5 mmol, 115 mL | C(CC=C)[Mg]Br
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | nona-1,8-dien-5-one | C=CCCC(CCC=C)=O | C9H14O
